US05304560
To a solution of 2-(3-ethoxycarbonyl-2-propenylamino)benzamide (2.35 g) in methanol (50 ml) was added 10% palladium on carbon (230 mg). The mixture was stirred vigorously under 3 atmospheric pressure of hydrogen. After 2 hours, the catalyst was filtered off, and the solvent was evaporated. The residue was chromatographed on silica gel (40 g). Elution with a mixed solvent of ethyl acetate-hexane (1:1 V/V) gave 2-(3-ethoxycarbonylpropylamino)benzamide (1.95 g).

reactant | 2-(3-ethoxycarbonyl-2-propenylamino)benzamide | 2.35 g | C(C)OC(=O)C=CCNC1=C(C(=O)N)C=CC=C1 | C13H16N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | 230 mg | [Pd] | Pd
product | 2-(3-ethoxycarbonylpropylamino)benzamide | 1.95 g | C(C)OC(=O)CCCNC1=C(C(=O)N)C=CC=C1 | C13H18N2O3
